US05707997
5-n-Butyl-7-chloropyrazolo[1,5-a]pyrimidine (the compound prepared in step (2) of Reference Example 1; 8.60 g), sodium hydrogen carbonate (3.44 g) and 40% methylamine (3.18 g) were added to 50 ml of ethanol and heated at 120° C. for 2 hours. After completion of the reaction, ethanol was distilled off under reduced pressure. After addition of some water, the residue was extracted with ethyl acetate. The organic layer was collected, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate:n-hexane=1:2) to provide 2.33 g of 5-n-butyl-7-methylaminopyrazolo[1,5-a]pyrimidine as crystals.

reactant | 5-n-Butyl-7-chloropyrazolo[1,5-a]pyrimidine | C(CCC)C1=NC=2N(C(=C1)Cl)N=CC2 | C10H12ClN3
reactant | sodium hydrogen carbonate | 3.44 g | C(O)([O-])=O.[Na+]
reactant | methylamine | 3.18 g | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-n-butyl-7-methylaminopyrazolo[1,5-a]pyrimidine | 2.33 g | C(CCC)C1=NC=2N(C(=C1)NC)N=CC2 | C11H16N4
